US03989707
A mixture of 39.6 parts of methyl 4-(4-chloro-2-nitrophenylamino)-2-methyl-1-piperidinecarboxylate and 450 parts of tetrahydrofuran is hydrogenated at 40 lbs./sq. inch and at room temperature with 2 parts of raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off. The filtrate is evaporated, yielding methyl 4-(2-amino-4-chlorophenylamino)-2-methyl-1-piperidinecarboxylate as an oily residue.

reactant | methyl 4-(4-chloro-2-nitrophenylamino)-2-methyl-1-piperidinecarboxylate | ClC1=CC(=C(C=C1)NC1CC(N(CC1)C(=O)OC)C)[N+](=O)[O-] | C14H18ClN3O4
reactant | hydrogen | [H][H] | H2
catalyst | raney-nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-(2-amino-4-chlorophenylamino)-2-methyl-1-piperidinecarboxylate | NC1=C(C=CC(=C1)Cl)NC1CC(N(CC1)C(=O)OC)C | C14H20ClN3O2
